US08912169B2
Step 1: Synthesis of 2-(trans-4-(tert-butoxycarbonyl(2-(dimethylamino)ethyl)amino)cyclohexyl)acetic acid
To 2-(trans-4-(tert-butoxycarbonylamino)cyclohexyl)acetic acid (1.47 g) in DMF (10 mL) was added Na2CO3 (0.907 g) and benzyl bromide (0.75 mL). The resultant reaction mixture was stirred at RT for overnight. Water was then added and extracted with EtOAc. The organic phase was dried and concentrated to afford the desired product as white solid (1.60 g). To this solid was added 4N HCl (10 mL) and the reaction mixture was stirred at RT for 1 hr. Diethyl ether was then added to the reaction mixture to precipitate out the benzyl 2-(trans-4-aminocyclohexyl)acetate HCl salt as white solid.

reactant | 2-(trans-4-(tert-butoxycarbonylamino)cyclohexyl)acetic acid | 1.47 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)CC(=O)O | C13H23NO4
reactant | Na2CO3 | 0.907 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzyl bromide | 0.75 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(trans-4-(tert-butoxycarbonyl(2-(dimethylamino)ethyl)amino)cyclohexyl)acetic acid | 1.60 g | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)CC(=O)O)CCN(C)C | C17H32N2O4
